US04550105
To a solution of 3.0 g of (3S,4S)-4-acetoxy-3-tritylamino-2-oxoazetidine in 50 ml of methanol is added a solution of 0.65 g of sodium azide in 5 ml of water under ice-cooling, followed by stirring for two hours at 40°-50° C. The solvent is distilled off under reduced pressure. To the residue is added ethyl acetate, and the organic layer is separated, which is washed with water and concentrated. The residue is purified on a silica-gel column (ethyl acetate: n-hexane=1:1) to give 1.01 g of (3S,4R)-4-azido-3-tritylamino-2-oxoazetidine.

reactant | (3S,4S)-4-acetoxy-3-tritylamino-2-oxoazetidine | 3.0 g | C(C)(=O)O[C@H]1[C@@H](C(N1)=O)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H22N2O3
reactant | sodium azide | 0.65 g | [N-]=[N+]=[N-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
solvent | water | 5 ml | O | H2O
product | (3S,4R)-4-azido-3-tritylamino-2-oxoazetidine | 1.01 g | N(=[N+]=[N-])[C@@H]1[C@@H](C(N1)=O)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H19N5O
